US04211773
1-(3-O-Acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-bromocytosine (1.0 g) is dissolved in saturated methanolic ammonia (100 ml) and the solution is left standing for 24 hours at room temperature. The solvent is removed in vacuo and the residue was crystallized from ethanol to give 560 mg of 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-bromocytosine, m.p. 201°-202°.

reactant | 1-(3-O-Acetyl-5-O-benzoyl-2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-bromocytosine | 1.0 g | C(C)(=O)O[C@H]1[C@@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)N1C(=O)N=C(N)C(=C1)Br)F | C18H17BrFN3O6
solvent | ammonia | 100 ml | N | H3N
product | 1-(2-deoxy-2-fluoro-β-D-arabinofuranosyl)-5-bromocytosine | 560 mg | F[C@@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C(=C1)Br | C9H11BrFN3O4
